US05707690
2-Hydroxy-4-dodecyloxy-4'-chlorobenzophenone
A mixture of 20 g (80 mmol) of 2,4-dihydroxy-4'-chlorobenzophenone, 21.9 g (88 mmol) of 1-bromododecane and 8.4 g (100 mmol) of sodium hydrogen carbonate in 77.6 g of sec-butyl alcohol and 25.6 g of H2O is heated with stirring and maintained at reflux for 20 h. The reaction mixture is stirred for an additional 15 min in the presence of 0.8 g of activated charcoal and is then filtered while hot. After the filtrate has cooled, the product crystallizes. It is recrystallized from sec-butyl alcohol to give 21.5 g of pale yellow crystals having a melting point of 61°-63° C.

reactant | 2,4-dihydroxy-4'-chlorobenzophenone | 80 mmol, 20 g | OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC(=C1)O | C13H9ClO3
reactant | 1-bromododecane | 88 mmol, 21.9 g | BrCCCCCCCCCCCC | C12H25Br
reactant | sodium hydrogen carbonate | 100 mmol, 8.4 g | C(O)([O-])=O.[Na+]
reactant | charcoal | 0.8 g | C | CH4
solvent | sec-butyl alcohol | 77.6 g | C(C)(CC)O | C4H10O
solvent | H2O | 25.6 g | O | H2O
product | 2-Hydroxy-4-dodecyloxy-4'-chlorobenzophenone | 21.5 g | OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC(=C1)OCCCCCCCCCCCC | C25H33ClO3
